US04225609
Preparation of 4-{3-[3-[2-(1-Acetoxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid
A solution of 4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazoldinyl]propyl}benzoic acid (3.9 g., 0.01 mole) and acetic anhydride (1.2 g., 0.012 mole) in pyridine (15 ml.) is kept at 25° C. for 5 days. It is then poured into 50 ml. of ice water and the mixture brought to pH 5.0 by the addition of 2 N hydrochloric acid. The oily product is extracted into chloroform and purified by column chromatography on silica gel with elution by 2% methanol in chloroform.

reactant | 4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazoldinyl]propyl}benzoic acid | 0.01 mole, 3.9 g | OC1(CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)O)C=C1 | C21H29NO4S
reactant | acetic anhydride | 0.012 mole, 1.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4-{3-[3-[2-(1-Acetoxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic Acid | C(C)(=O)OC1(CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)O)C=C1 | C23H31NO5S
